* source FINAL GRADE CAD PROJECT
.EXTERNAL OUTPUT Vcc
R_R13         N36511 N36339 R_R13 2.43K TC=0,0 
.model        R_R13 RES R=1 DEV=1% TC1=0 TC2=0
R_R8         N36491 N36087  1.43K TC=0,0 
R_R9         N36087 N36097 R_R9 301 TC=0,0 
.model        R_R9 RES R=1 DEV=1% TC1=0 TC2=0
X_U1         N36555 N36167 VCC 0 N36167 uA741
R_R7         N36483 N36491 R_R7 1k TC=0,0 
.model        R_R7 RES R=1 DEV=1% TC1=0 TC2=0
V_V1         VCC 0 14V
R_R2         VCC N36689 R_R2 10.5k TC=0,0 
.model        R_R2 RES R=1 DEV=1% TC1=0 TC2=0
R_R4         N36823 0 R_R4 1.54K TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
R_R6         N361310 N36179 R_R6 301 TC=0,0 
.model        R_R6 RES R=1 DEV=1% TC1=0 TC2=0
R_R17         OUT N37147  6650 TC=0,0 
R_Relay         N37039 VCC  480 TC=0,0 
R_R12         N36339 VCC R_R12 4.12K TC=0,0 
.model        R_R12 RES R=1 DEV=1% TC1=0 TC2=0
X_U3         N36689 N36483 VCC 0 N36483 uA741
R_R16         N36983 VCC  590 TC=0,0 
X_U2         N36179 N36491 VCC 0 N36087 uA741
R_Rsesnsor         N35941 0  {Rs} TC=0,0 
D_led         N36983 N37039 LS_3336-TYP 
R_R18         VCC N35941  75k TC=0,0 
R_R5         N36167 N361310 R_R5 287 TC=0,0 
.model        R_R5 RES R=1 DEV=1% TC1=0 TC2=0
V_V3         N36555 0  
+PULSE 0 14 0 10m 10m 0 20m
R_R11         N35971 OUT  1k TC=0,0 
Q_Q2         N37039 N37147 0 Q2N2222A/ZTX 
R_R14         N36511 N36641 R_R14 4.75K TC=0,0 
.model        R_R14 RES R=1 DEV=1% TC1=0 TC2=0
X_U4         N35971 N36511 VCC 0 OUT uA741
R_R15         N36641 0 R_R15 2.8K TC=0,0 
.model        R_R15 RES R=1 DEV=1% TC1=0 TC2=0
R_R3         N36689 N36823 R_R3 1.96K TC=0,0 
.model        R_R3 RES R=1 DEV=1% TC1=0 TC2=0
R_R10         N36097 N35971 R_R10 274 TC=0,0 
.model        R_R10 RES R=1 DEV=1% TC1=0 TC2=0
.PARAM  rs=75k
